US09260455B2
Step 2. Synthesis of N-[(4aR,6S,8aS)-8a-(2,4-difluorophenyl)-6-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C22)
N-[(4aR,6R,8aS)-6-(Chloromethyl)-8a-(2,4-difluorophenyl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C21) (1.88 g, 4.30 mmol) was dissolved in tetrahydrofuran and cooled to 0° C. Lithium triethylborohydride (1 M in tetrahydrofuran, 34.4 mL, 34.4 mmol) was added drop-wise, and the reaction mixture was allowed to warm to room temperature. After 18 hours, the reaction mixture was partitioned between aqueous sodium bicarbonate solution and ethyl acetate. The aqueous layer was extracted twice with ethyl acetate, and the combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. Purification using silica gel chromatography (Eluent: dichloromethane, followed by a gradient of 0% to 10% methanol in dichloromethane) provided the product as a white solid. Yield: 1.40 g, 3.48 mmol, 81%. LCMS m/z 403.1 [M+H+]. 1H NMR (400 MHz, CDCl3) δ 12.29 (br s, 1H), 8.19-8.30 (br m, 2H), 7.48-7.54 (m, 1H), 7.37-7.48 (m, 3H), 6.84-6.96 (m, 2H), 4.15 (dd, J=12.2, 2.0 Hz, 1H), 3.77-3.84 (m, 1H), 3.77 (d, J=12.3 Hz, 1H), 3.09-3.19 (br m, 1H), 3.01 (dd, J=12.9, 4.1 Hz, 1H), 2.63 (dd, J=12.8, 2.8 Hz, 1H), 1.88-2.00 (m, 1H), 1.62-1.69 (m, 1H), 1.30 (d, J=6.2 Hz, 3H).

reactant | N-[(4aR,6R,8aS)-6-(Chloromethyl)-8a-(2,4-difluorophenyl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | 4.30 mmol, 1.88 g | ClC[C@H]1C[C@@H]2[C@@](N=C(SC2)NC(C2=CC=CC=C2)=O)(CO1)C1=C(C=C(C=C1)F)F | C21H19ClF2N2O2S
reactant | Lithium triethylborohydride | 34.4 mmol, 1 M, 34.4 mL | C(C)[BH-](CC)CC.[Li+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[(4aR,6S,8aS)-8a-(2,4-difluorophenyl)-6-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | FC1=C(C=CC(=C1)F)[C@@]12N=C(SC[C@@H]1C[C@@H](OC2)C)NC(C2=CC=CC=C2)=O | C21H20F2N2O2S
